* temperature statement
* Xyce netlist for corresponding HSPICE netlist
* This netlist tests XDM HSPICE translation of
* multiple .TEMP statements. The .TEMP statements
* should be translated into a .STEP command, with 
* the various temperatures in a .DATA table

.OPTIONS DEVICE TNOM=25 


VA 1 0 DC 0

R1 1 2 R=10
R2 2 0 TC=0.001 R=10
.DC LIN VA 0 10 1


.PRINT DC FORMAT=PROBE V(1) V(2) 

.STEP DATA=XDMgeneratedTable 
.DATA XDMgeneratedTable 
+ temp
+ -10
+ 50
+ 85
+ 125
.ENDDATA 


